datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([H:13])[H:14])[C:4]([C:5](=[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])[H:17])([H:15])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1[C:3]([H:13])([H:14])[C:7]([C:8]([H:19])([H:20])[H:21])([C:9]([H:22])([H:23])[H:24])[C:6]([H:18])=[C:5]([H:17])[C:4]1([H:15])[H:16])[H:12])([H:10])[H:11],87.5293
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25]>>[C:0]([C:1]([C:2]1[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:24][O:25],184.096
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]([C:8]([C:9]([C:10]([C:11]([H:28])([H:29])[H:30])[H:27])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]([H:21])([H:22])[C:8]([H:23])([H:24])[C:9]([H:25])([H:26])[C:10]1([C:11]([H:28])([H:29])[H:30])[H:27])[H:14])([H:12])[H:13],41.4216
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25])([H:7])[H:8],10.5855
[O:0][O:1][C:2]([C:3]([O:4][H:9])([H:7])[H:8])([H:5])[H:6]>>[O:0]([O:1][C:2]([C:3]([O:4][H:9])[H:8])([H:5])[H:6])[H:7],109.37
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][O:18][C:17]([H:19])([H:20])[H:21],29.288
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[N:15]([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:5])[H:6].[H:10][N:15]([H:16])[H:17],24.30904
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])([C:13]([H:21])([H:22])[H:23])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:17])[H:5].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13]([H:21])([H:22])[H:23])([H:14])([H:15])[H:16],56.0656
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[C:28]([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10].[H:11][C:28]([H:29])([H:30])[H:31],0.0
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20](=[S:21])[H:24])([H:22])[H:23]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:19]([C:20](=[S:21])[H:24])([H:22])[H:23],29.288
[C:3]([H:4])([H:5])[H:6].[O:0]([H:1])[H:2]>>[H:1].[O:0]([H:2])[C:3]([H:4])([H:5])[H:6],187.817
[C:0](=[C:1]=[C:2]=[C:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[C:0]1([H:7])=[C:1]=[C:2]=[C:3]([H:8])[C:4]([H:9])([H:10])[C:5]=[C:6]1[H:11],130.70816
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24])([H:6])[H:7],10.3763
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([O:5][H:17])([H:15])[H:16])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:18]([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([O:5][H:17])([H:15])[H:16])([H:13])[H:14])([H:6])([H:7])[H:8].[H:9][C:18]([H:19])([H:20])[H:21],32.175
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2](=[S:3])[H:18])[H:6])([H:4])[H:5].[C:7]([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:19])([H:15])([H:16])[H:17],59.8312
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18])([H:12])([H:13])[H:14]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:12])([H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18],95.3952
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[O:7][O:8][H:9]>>[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[H:6][O:7][O:8][H:9],42.701904
